US05635527
t-Butyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate (430 mg, 1.10 mmol) was dissolved in a mixed solution of pyridine (30 ml) and triethylamine (7 ml), and hydrogen sulfide gas was blown in for 10 minutes at room temperature, which was followed by stirring for 18 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was dissolved in ethyl acetate. The mixture was washed with a 2N aqueous potassium hydrogensulfate solution, water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure to give t-butyl 4-[(5-thiocarbamoyl-2-benzofuranyl)carbonylamino]phenoxyacetate as a yellow solid. The solid was dissolved in acetone (50 ml) and methyl iodide (2 ml) was added. The mixture was refluxed under heating for 40 minutes. Low boiling matters were distilled away from the reaction mixture under reduced pressure to give t-butyl 4-[[5-[(1-methylthio)iminomethyl]-2-benzofuranyl)carbonylamino]phenoxyacetate as a yellow solid. Thereto were added methanol (30 ml) and ammonium acetate (280 mg, 3.64 mmol), and the mixture was refluxed under heating for 3 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol=100/3-3/1) to give 596 mg of hydriodide of compound (8) as a yellow solid (quantitatively in 3 steps).

reactant | t-Butyl 4-[(5-cyano-2-benzofuranyl)carbonylamino]phenoxyacetate | 1.10 mmol, 430 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2)C1 | C22H20N2O5
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
product | t-butyl 4-[(5-thiocarbamoyl-2-benzofuranyl)carbonylamino]phenoxyacetate | C(N)(=S)C=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2)C1 | C22H22N2O5S
